US04963590
Ethyl 2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylate
The procedure described in Example 4 was repeated using 1.0 g of 3,4-dihydroxy-5-nitrobenzaldehyde, 0.9 g of ethyl cyanoacetate and 0.15 g of ammonium acetate in 10 ml of ethanol. Yield 0.87 g (57%), m.p. 205°-210° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.0 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | ethyl cyanoacetate | 0.9 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 0.15 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylate | C(#N)C(C(=O)OCC)=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C12H10N2O6
